US07268230B2
Diisopropylethylamine (72 μl, 0.41 mmol) and isobutyryl chloride (44 mg, 0.41 mmol), in methylene chloride (0.5 ml) were added to a suspension of 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-(piperidin-4-ylmethoxy)quinazoline (150 mg, 0.34 mmol), (prepared as described for the starting material in Example 11), in methylene chloride (4 ml). After a few minutes all the material had gone into solution. The mixture was stirred for 3 hours at ambient temperature, washed with saturated sodium hydrogen carbonate solution, dried (MgSO4) and concentrated under reduced pressure. Column chromatography of the residue, eluting with 2% methanol/methylene chloride gave 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-7-[(1-isobutyrylpiperidin-4-yl)methoxy]-6-methoxyquinazoline (90 mg, 52%).

reactant | Diisopropylethylamine | 0.41 mmol, 72 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | isobutyryl chloride | 0.41 mmol, 44 mg | C(C(C)C)(=O)Cl | C4H7ClO
reactant | 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-(piperidin-4-ylmethoxy)quinazoline | 0.34 mmol, 150 mg | FC1=C2C=C(NC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCNCC1)C | C24H25FN4O3
solvent | methylene chloride | 0.5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-7-[(1-isobutyrylpiperidin-4-yl)methoxy]-6-methoxyquinazoline | 90 mg, 52% | FC1=C2C=C(NC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C(C(C)C)=O)C | C28H31FN4O4
